US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.086 g, 0.377 mmol) in N,N-dimethylformamide (15 mL) was added Cs2CO3 (0.307 g, 0.943 mmol) and 6-bromo-3-isothiocyanatoisoquinoline (0.1 g, 0.377 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-Diisopropylcarbodiimide (0.176 mL, 1. 132 mmol) was then added and the mixture was stirred for a further 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% [9.5:0.5 methanol:ammonium hydroxide]-ethyl acetate) to afford (R)—N-(6-bromoisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.054 g, 0.135 mmol, 36% yield) as a yellow solid. 1H NMR (400 MHz, MeOD) δ ppm 9.04 (1H, s), 7.80-8.05 (2H, m), 7.55 (1H, dd, J=8.81, 1.76 Hz), 7.37 (1H, br. s.), 4.10 (1H, d, J=10.58 Hz), 3.87 (1H, d, J=10.83 Hz), 3.68-3.77 (1H, m), 3.56-3.67 (1H, m), 3.29-3.49 (4H, m), 2.45 (1H, br. s.), 2.28-2.41 (1H, m), 1.86-2.15 (3H, m). LCMS:R.T.=1.76; [M+]+=387.21.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.377 mmol, 0.086 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 0.943 mmol, 0.307 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-bromo-3-isothiocyanatoisoquinoline | 0.377 mmol, 0.1 g | BrC=1C=C2C=C(N=CC2=CC1)N=C=S | C10H5BrN2S
reactant | N,N′-Diisopropylcarbodiimide | 132 mmol, 0.176 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)—N-(6-bromoisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.135 mmol, 0.054 g, 36% yield | BrC=1C=C2C=C(N=CC2=CC1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H19BrN4O
